US07432279B2
4-(1H-indol-5-ylamino)-6-[(2-morpholin-4-ylethyl)amino]-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 34, 6-fluoro-4-(1H-indol-5-ylamino)-1,7-naphthyridine-3-carbonitrile was reacted with 2-morpholin-4-yl-ethylamine. The crude product was purified by flash column chromatography (2 to 10% methanol in methylene chloride) to give a yellow solid (0.103 g, 55%). 1H NMR (400 MHz, DMSO-D6) δ ppm 2.4 (m, 4 H) 2.6 (t, J=6.8 Hz, 2 H) 3.4 (m, 2 H) 3.6 (m, 4 H) 6.5 (m, 2 H) 7.1 (dd, J=8.5, 1.9 Hz, 1 H) 7.2 (s, 1 H) 7.4 (m, 1 H) 7.4 (d, J=8.6 Hz, 1 H) 7.5 (d, J=1.8 Hz, 1 H) 8.1 (s, 1 H) 8.8 (s, 1 H) 9.7 (s, 1 H) 11.2 (s, 1 H).

reactant | 6-fluoro-4-(1H-indol-5-ylamino)-1,7-naphthyridine-3-carbonitrile | FC=1C=C2C(=C(C=NC2=CN1)C#N)NC=1C=C2C=CNC2=CC1 | C17H10FN5
reactant | 2-morpholin-4-yl-ethylamine | N1(CCOCC1)CCN | C6H14N2O
product | 4-(1H-indol-5-ylamino)-6-[(2-morpholin-4-ylethyl)amino]-1,7-naphthyridine-3-carbonitrile | 0.103 g, 55% | N1C=CC2=CC(=CC=C12)NC1=C(C=NC2=CN=C(C=C12)NCCN1CCOCC1)C#N | C23H23N7O
